US07901594B2
1,2-Bis(hydroxymethyl)-3,4,5,6-tetrapropylbenzene
Dimethyl 3,4,5,6-tetrapropylphthalate (5.22 g, 14.4 mmols) was added at 0° C. to a 50 ml THF solution of LiAlH4 (1.20 g, 31.7 mmols). After stirring at room temperature for an hour, water was added for hydrolysis. The mixture was treated with 2N H2SO4 followed by extraction with diethyl ether. Subsequently, the extract was washed with brine and dried over anhydrous magnesium sulfate. Column chromatography was performed using silica gel as the packing material to give the title compound (3.67 g) as a white solid. The isolation yield was 91%.

reactant | Dimethyl 3,4,5,6-tetrapropylphthalate | 14.4 mmols, 5.22 g | C(CC)C1=C(C(C(=O)OC)=C(C(=C1CCC)CCC)CCC)C(=O)OC | C22H34O4
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | LiAlH4 | 31.7 mmols, 1.20 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2SO4 | 2N | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
product | 1,2-Bis(hydroxymethyl)-3,4,5,6-tetrapropylbenzene | 3.67 g, yield was 91% | OCC1=C(C(=C(C(=C1CCC)CCC)CCC)CCC)CO | C20H34O2
